US07060844B2
To a slurry of [3-(6-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid (300 mg, 0.922 mmol) in a mixture of dioxane (15 ml) and MeOH (7 ml) was added 2.0M (trimethylsilyl)diazomethane/Hexanes (507 μl) and the resultant solution was stirred for 15 minutes at room temperature. The solvent was rotary evaporated and the residue was partitioned between EtOAc and saturated NaHCO3. The organic layer (combined a EtOAc solution from a previous 100 mg (0.307 mmol) scale test reaction) was then washed with dilute HCl aqueous solution, water, brine, dried with anhydrous Na2SO4, and rotary evaporated to a yellow solid. The solid was triturated with 30% EtOAc in hexane to yield [3-(6-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid methyl ester as a bright yellow solid (388 mg, 93%).

reactant | [3-(6-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid | 0.922 mmol, 300 mg | FC1=CC=C2C(C(NC2=C1)=O)=C1OC(C2=CC=CC=C12)CC(=O)O | C18H12FNO4
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 7 ml | CO | CH4O
product | [3-(6-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid methyl ester | 388 mg, 93% | COC(CC1OC(C2=CC=CC=C12)=C1C(NC2=CC(=CC=C12)F)=O)=O | C19H14FNO4
